US07344702B2
Synthesis of 2-tert-butyl-4-tert-butyldimethylsilyloxymethyl-5-(4-tert-butylbenzyl)thio-3(2H)-pyridazinone
To a solution of 2-tert-butyl-4-tert-butyldimethylsilyloxymethyl-5-chloro 3(2H)-pyridazinone (1.5 g, 4.54 mmol) in DMF (10 ml) is added anhydrous cesium carbonate (2.9 g, 9.09 mmol) and 4-tert-butybenzyl mercaptan (1.02 g, 4.54 mmol). The mixture is stirred for 2 hours at 70° C. and then cooled to room temperature and ethyl acetate is added to it. The solution is then washed with water, dried and concentrated and the residue subjected to purification by flash chromatography (silica gel; ethyl acetate/hexanes) to give the above compound.

reactant | 2-tert-butyl-4-tert-butyldimethylsilyloxymethyl-5-chloro 3(2H)-pyridazinone | 4.54 mmol, 1.5 g | C(C)(C)(C)N1N=CC(=C(C1=O)CO[Si](C)(C)C(C)(C)C)Cl | C15H27ClN2O2Si
reactant | cesium carbonate | 9.09 mmol, 2.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-tert-butybenzyl mercaptan | 4.54 mmol, 1.02 g | C(C)(C)(C)C1=CC=C(CS)C=C1 | C11H16S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-tert-butyl-4-tert-butyldimethylsilyloxymethyl-5-(4-tert-butylbenzyl)thio-3(2H)-pyridazinone | C(C)(C)(C)N1N=CC(=C(C1=O)CO[Si](C)(C)C(C)(C)C)SCC1=CC=C(C=C1)C(C)(C)C | C26H42N2O2SSi
